US08957070B2
7-{[(4-Methylphenyl)sulfonyl]amino}-N-phenyl-1H-indole-2-carboxamide
A mixture of 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid (110 mg), aniline (38 μL), ethyldiisopropylamine (0.29 mL), 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (180 mg) and N,N-dimethylformamide (4 mL) was stirred at 60° C. for 7 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1), and the obtained crystals were washed with ethyl acetate-hexane to give the title compound (75 mg, yield 55%) as colorless crystals. melting point 247-248° C.

reactant | 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 110 mg | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C16H14N2O4S
reactant | aniline | 38 μL | NC1=CC=CC=C1 | C6H7N
reactant | ethyldiisopropylamine | 0.29 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 180 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 7-{[(4-Methylphenyl)sulfonyl]amino}-N-phenyl-1H-indole-2-carboxamide | 75 mg, yield 55% | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)NC1=CC=CC=C1 | C22H19N3O3S
